US04473393
1-phenyl-3-propenyl-2-thiohydantoin
A mixture of N-phenyl glycine (15.1 grams, 0.1 moles) and allylisothiocyanate (12.0 grams, 0.12 moles) was refluxed for 6 hours and allowed to stand overnight at room temperature (21° C.). The reaction mixture became a solid mass which was ground and crystallized from ethanol using charcoal, 7.26 grams (31% yield) of the above-identified product was recovered having a melting point of about 74° C.

reactant | N-phenyl glycine | 0.1 moles, 15.1 grams | C1(=CC=CC=C1)NCC(=O)O | C8H9NO2
reactant | allylisothiocyanate | 0.12 moles, 12.0 grams | C(C=C)N=C=S | C4H5NS
reactant | charcoal | C | CH4
product | 1-phenyl-3-propenyl-2-thiohydantoin | 7.26 grams, 31% yield | C1(=CC=CC=C1)N1C(=S)N(C(=O)C1)C=CC | C12H12N2OS
